US07732618B2
a.) (4-tert-Butoxycarbonylamino-2-nitro-phenylamino)-acetic acid tert-butyl ester. (Scheme 2)
Glycine tert-butyl ester hydrochloride (4.1 g, 29.4 mmol) and NaHCO3 (5.1 g, 61.0 mmol) were added to a solution of (4-fluoro-3-nitro-phenyl)-carbamic acid tert-butyl ester (5.2 g, 20.3 mmol) in DMSO (16 mL). The reaction was heated to 65° C. for 5 hours, cooled to room temperature, and partitioned between H2O and EtOAc. The organic layer was washed several times with H2O and concentrated to afford the sub-title compound. MS calculated for C17H25N3O6+H: 368, observed: 368.

reactant | Glycine tert-butyl ester hydrochloride | 29.4 mmol, 4.1 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | NaHCO3 | 61.0 mmol, 5.1 g | C(=O)(O)[O-].[Na+]
reactant | (4-fluoro-3-nitro-phenyl)-carbamic acid tert-butyl ester | 20.3 mmol, 5.2 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C11H13FN2O4
solvent | DMSO | 16 mL | CS(=O)C | C2H6OS
product | (4-tert-Butoxycarbonylamino-2-nitro-phenylamino)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C17H25N3O6
